US06858625B1
Synthesis of 1-(6-amino-3,5-difluoropyridin-2-yl)-8-bromo-7-(3-ethylaminoazetidin-1-yl)-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (Compound 1)
3-Ethylaminoazetidine (700 mg), 1-(6-amino-3,5-difluoropyridin-2-yl)-8-bromo-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (1.5 g), N-methyl-pyrrolidine (2.0 g)and dimethylsulfoxide (4.5 g) were combined, and the mixture was heated under stirring at 40° C. for 24 hours. After the mixture was allowed to cool down, isopropyl ether (10 mL) was added, the mixture was stirred, and a clear layer at the top of the mixture was removed. The same procedure was repeated once more, and the residue was concentrated under reduced pressure. Ethanol (5 mL) was added, and the mixture was heated under stirring at 70° C. for 30 minutes. The precipitated solid was collected by filtration. The title compound (1.38 g) was obtained.

reactant | 3-Ethylaminoazetidine | 700 mg | C(C)NC1CNC1 | C5H12N2
reactant | 1-(6-amino-3,5-difluoropyridin-2-yl)-8-bromo-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 1.5 g | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)Br)F)F)=O)C(=O)O)F)F | C15H6BrF4N3O3
reactant | N-methyl-pyrrolidine | 2.0 g | CN1CCCC1 | C5H11N
reactant | isopropyl ether | 10 mL | C(C)(C)OC(C)C | C6H14O
solvent | dimethylsulfoxide | 4.5 g | CS(=O)C | C2H6OS
product | 1-(6-amino-3,5-difluoropyridin-2-yl)-8-bromo-7-(3-ethylaminoazetidin-1-yl)-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 1.38 g | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)Br)N1CC(C1)NCC)F)=O)C(=O)O)F)F | C20H17BrF3N5O3
